US06462036B1
A mixture of indan-1-one (10.0 g), ethanol (35 ml), hydrazine hydrate (10.0 ml) and glacial acetic acid (2.0 ml) was boiled under reflux under nitrogen for 1 hour. The mixture was cooled to 20° C. and the mixture concentrated under reduced pressure to give a solid which was collected by filtration to give indan-1-one hydrazone, m.p. 84-86° C.

reactant | indan-1-one | 10.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | ethanol | 35 ml | C(C)O | C2H6O
reactant | hydrazine hydrate | 10.0 ml | O.NN
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | indan-1-one hydrazone | C1(CCC2=CC=CC=C12)=NN | C9H10N2
